US07482366B2
2,4-Dibromo-6-ethyl-pyridin-3-ylamine (105 mg, 0.38 mmoles) was combined with 80% sodium thioethoxide (50 mg, 0.48 mmoles) in anhydrous DMF (2 mL) and was stirred at 50° C. under nitrogen for 2 hours. After this period the reaction mix was combined with water (20 mL) and was extracted with EtOAc (3×20 mL). The combined EtOAc layer was washed with water (3×1 5 mL) and brine. After drying over anhydrous Na2SO4 the organic layer was evaporated in vacuo to yield crude product. The crude product was purified using flash silica chromatography (0-15% EtOAc/Hexane) to yield 4-bromo-6-ethyl-2-ethylsulfanyl-pyridin-3-ylamine (83 mg, 84%) as a clear residue. 1H-NMR (CDCl3): δ 6.94 (s, 1H), 4.34 (br s, 2H), 2.95 (q, J=7.3 Hz, 2H), 2.68 (q, J=7.6 Hz, 2H), 1.33 (t, J=7.3 Hz, 3H), 1.24 (t, J=7.6 Hz, 3H).

reactant | 2,4-Dibromo-6-ethyl-pyridin-3-ylamine | 0.38 mmoles, 105 mg | BrC1=NC(=CC(=C1N)Br)CC | C7H8Br2N2
reactant | sodium thioethoxide | 0.48 mmoles, 50 mg | [S-]CC.[Na+]
reactant | water | 20 mL | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-bromo-6-ethyl-2-ethylsulfanyl-pyridin-3-ylamine | 83 mg, 84% | BrC1=C(C(=NC(=C1)CC)SCC)N | C9H13BrN2S
